US07368578B2
To a solution (400 mL) of (1-ethyl-1H-pyrazol-4-yl)methanol (16.80 g) in tetrahydrofuran was added thionyl chloride (40.0 g), and the mixture was stirred at room temperature for 4 hr. The mixture liquid was concentrated under reduced pressure to obtain 4-chloromethyl-1-ethyl-1H-pyrazole hydrochloride as a colorless oil (24.15 g, yield 100%).

reactant | (1-ethyl-1H-pyrazol-4-yl)methanol | 400 mL, 16.80 g | C(C)N1N=CC(=C1)CO | C6H10N2O
reactant | thionyl chloride | 40.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-chloromethyl-1-ethyl-1H-pyrazole hydrochloride | 24.15 g, yield 100% | Cl.ClCC=1C=NN(C1)CC | InChI=1S/C6H9ClN2.ClH/c1-2-9-5-6(3-7)4-8-9;/h4-5H,2-3H2,1H3;1H
